US06939867B2
Preparation of [2-(tert-Butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-[2-(4-nitro-phenoxy)-ethyl]-carbamic acid tert-butyl ester (I-3c):
To a cooled (0° C.), stirred solution of triphenylphosphine (629 mg) in THF (6 mL) was added diisopropylazodicarboxylate (0.5 mL) dropwise and the resulting thick white slurry was stirred for 45 min. A solution of [2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester (515 mg) and 4-nitrophenol (332 mg) in THF (5 mL) was added dropwise to produce a yellow slurry. After an additional 1 h period, the cooling bath was removed and the mixture was allowed to stir at ambient temperature for 20 h. This mixture was concentrated in vacuo and chromatographed on a Biotage® F40M column (gradient of 10% to 15% ethyl acetate/hexanes) to afford 530 mg of the title compound (I-3c) as a colorless foam.

reactant | triphenylphosphine | 629 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.5 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | [2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-(2-hydroxy-ethyl)-carbamic acid tert-butyl ester | 515 mg | C(C)(C)(C)OC(N(CCO)CC(C=1C=NC(=CC1)Cl)O[Si](C)(C)C(C)(C)C)=O | C20H35ClN2O4Si
reactant | 4-nitrophenol | 332 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [2-(tert-Butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-[2-(4-nitro-phenoxy)-ethyl]-carbamic acid tert-butyl ester | 530 mg | C(C)(C)(C)OC(N(CCOC1=CC=C(C=C1)[N+](=O)[O-])CC(C=1C=NC(=CC1)Cl)O[Si](C)(C)C(C)(C)C)=O | C26H38ClN3O6Si
